US06204221B1
3-(3-Fluoro-5-chloro-2-pyridyl)-4-nitro-5-difluoromethoxy-1-methyl-[1H]-pyrazole
4.0 g of 3-(3-fluoro-5chloro-2-pyridyl)-5-difluoromethoxy-1-methyl-[1H]-pyrazole (Example HIS) are initially introduced into 30 ml of methylene chloride. 3.83 g of nitronium tetrafluoroborate are added, while stirring and cooling in an ice-bath, and the mixture is subsequently stirred overnight at 22° C. The following day, it is poured onto water, and ethyl acetate is added. After extraction by shaking and separation of the phases, the organic phase is washed with dilute bicarbonate solution and brine, dried over sodium sulfate, filtered and concentrated in vacuo. 4.35 g of the desired title compound are obtained as a brown solid of melting point 108-109° C.

reactant | 3-(3-fluoro-5chloro-2-pyridyl)-5-difluoromethoxy-1-methyl-[1H]-pyrazole | 4.0 g | FC=1C(=NC=C(C1)Cl)C1=NN(C(=C1)OC(F)F)C | C10H7ClF3N3O
reactant | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
reactant | nitronium tetrafluoroborate | 3.83 g | F[B-](F)(F)F.O=[N+]=O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(3-Fluoro-5-chloro-2-pyridyl)-4-nitro-5-difluoromethoxy-1-methyl-[1H]-pyrazole | 4.35 g | FC=1C(=NC=C(C1)Cl)C1=NN(C(=C1[N+](=O)[O-])OC(F)F)C | C10H6ClF3N4O3
